US04867915
27.15 ml (13.75 g, 0.103 mol) of a 3.8N solution of ethylmagnesium bromide in ether was added dropwise under argon to a cold solution of 15.3g (0.085 mol) of 3-(p-methylthiophenoxy)-1-propyne in 80 ml of anhydrous tetrahydrofuran, at such a rate to maintain the temperature at -10°C. The resulting mixture was stirred for 1 hour and then treated with 677.2mg of cuprous cyanide. After stirring 20 minutes more, a solution of 10.8 g(0.0687 mol) of 1-bromo-2,5-hexadiyne in 25 ml of anhydrous tetrahydrofuranwas added dropwise, maintaining the temperature between 0°-5°C. The reaction mixture was stirred at room temperature for 3 additional hours, and then poured into 150 ml of 1N sulfuric acid and ice. After extraction with ether (3×150 ml) the combined organic extracts were concentrated in vacuo to a small volume, and washed several times with EDTA and then with water, dried over sodium sulfate and evaporated. The crude material was purified by column chromatography on 200 g of silica gel, using hexane:ethyl acetate (95:5) as eluant, and the product crystallized from methylene-chloride-hexane, to yield 9-(p-methylthiophenoxy)-1,4,7-nonatriyne, as an oil. The product was stored in dry ice.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3-(p-methylthiophenoxy)-1-propyne | 0.085 mol, 15.3g | CC1=CC=C(SCC#C)C=C1 | C10H10S
reactant | 1-bromo-2,5-hexadiyne | 0.0687 mol, 10.8 g | BrCC#CCC#C | C6H5Br
reactant | sulfuric acid | 1N, 150 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 9-(p-methylthiophenoxy)-1,4,7-nonatriyne | CC1=CC=C(SCC#CCC#CCC#C)C=C1 | C16H14S
